US07098212B2
3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-propionic acid ethyl ester
To a solution of 3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-acrylic acid ethyl ester (0.102 g, 0.21 mmol) in ethanol (20 mL) was added platinum oxide (0.010 g). The reaction mixture was shaken under positive pressure of hydrogen gas (20 psi) for 20 minutes. The resulting mixture was filtered through a pad of celite, the filter cake was washed with ethanol, and the combined filtrate was concentrated in vacuo to give the title compound (0.081 g).

reactant | 3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-acrylic acid ethyl ester | 0.21 mmol, 0.102 g | C(C)OC(C=CC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C25H29ClFN3O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | platinum oxide | 0.010 g | [Pt]=O
product | 3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-propionic acid ethyl ester | 0.081 g | C(C)OC(CCC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C25H31ClFN3O4
